US08183246B2
4-Chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine
Put 72 g (227.6 mmol) 5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4(3H)-one in 360 ml (4.6 mol) phosphoryl chloride and heat to reflux. Stir the mixture for approx. 1 h at 120° C., before adding the reaction mixture dropwise, after cooling to RT, at controlled dose and with vigorous stirring, to a mixture of 2.2 litres of 25% ammonia solution and 1.2 litres water (pH>9, temperature 55-75° C.). Extract the aqueous mixture three times with dichloromethane, combine the organic phases, dry over sodium sulphate and concentrate by vacuum evaporation. Wash the residue with a little diisopropyl ether, and after filtration and drying at high vacuum, 66.1 g (85.2% of theor.) of the target product is obtained.

reactant | 5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4(3H)-one | 227.6 mmol, 72 g | C(C)C1=CC=C(C=C1)C1=C(OC=2N=CNC(C21)=O)C2=CC=CC=C2 | C20H16N2O2
reactant | phosphoryl chloride | 4.6 mol, 360 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | 2.2 litres | N | H3N
solvent | water | 1.2 litres, pH>9 | O | H2O
product | 4-Chloro-5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2 | C20H15ClN2O
